US09079889B2
To a solution of 3-(3-nitropyridin-4-yl)cyclohex-2-enol (1.0 equiv.), triphenylphosphine (1.5 equiv.) and phthalimide (1.5 equiv.) in THF (0.3 M) at 0° C. was added (E)-di-tert-butyl diazene-1,2-dicarboxylate (1.5 equiv.) dropwise. The reaction was stirred at 0° C. for 2 hours. Concentrated to dryness under vacuo, then purified the crude via silica gel column chromatography eluting with EtOAc and hexanes (1:1 with 5% methanol) to afford the 2-(3-(3-nitropyridin-4-yl)cyclohex-2-enyl)isoindoline-1,3-dione (63% yield). LC/MS=350.3 (M+H), LC=3.936 min.

reactant | 3-(3-nitropyridin-4-yl)cyclohex-2-enol | 1.0 equiv. | [N+](=O)([O-])C=1C=NC=CC1C1=CC(CCC1)O | C11H12N2O3
reactant | triphenylphosphine | 1.5 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 1.5 equiv. | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | (E)-di-tert-butyl diazene-1,2-dicarboxylate | 1.5 equiv. | N(=N\C(=O)OC(C)(C)C)/C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 0.3 M | C1CCOC1 | C4H8O
product | 2-(3-(3-nitropyridin-4-yl)cyclohex-2-enyl)isoindoline-1,3-dione | 63% yield | [N+](=O)([O-])C=1C=NC=CC1C1=CC(CCC1)N1C(C2=CC=CC=C2C1=O)=O | C19H15N3O4
